US09034880B2
Preparation of 8-Chloro-2-methyl-5-[2-(5-methyl-pyrazin-2-yl)-ethyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (Compound 363)
To a solution of 8-Chloro-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (0.11 g, 5.0 mmol) in N-methyl 2-pyrolidone (2.0 mL) was added powdered potassium hydroxide (0.224 g, 4.0 mmol) and allowed to stir for 10 min at RT. 2-methyl-5-vinyl pyrazine (0.065 g, 0.55 mmol) was added and stirred for further 2 h at 60 deg C. After completion (TLC), reaction mixture was diluted with water (20 mL) and extracted with ethyl acetate (3×100 mL). The organic layer was dried over anhydrous sodium sulphate and concentrated under reduced pressure. The crude was purified through column chromatography (6% MeOH:DCM in silica 100-200 mesh, Diameter of column—2.5 cm, Height of silica—approx. 5 inch) to provide the desired compound as yellow oil (0.09 g, 54% yield). 8-Chloro-2-methyl-5-[2-(5-methyl-pyrazin-2-yl)-ethyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (0.09 g, 0.26 mmol) was dissolved in THF (1.0 mL). A solution of oxalic acid dihydrate (0.034 g, 0.26 mmol) in THF (1.0 mL) was added and stirred for 30 min at RT, Precipitate obtained was filtered and dried to give oxalate salt as white solid (0.08 g, 68% yield).

reactant | 8-Chloro-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 5.0 mmol, 0.11 g | ClC1=CC=2C3=C(NC2C=C1)CCN(C3)C | C12H13ClN2
reactant | potassium hydroxide | 4.0 mmol, 0.224 g | [OH-].[K+]
reactant | 2-methyl-5-vinyl pyrazine | 0.55 mmol, 0.065 g | CC1=NC=C(N=C1)C=C | C7H8N2
solvent | N-methyl 2-pyrolidone | 2.0 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 20 mL | O | H2O
product | 8-Chloro-2-methyl-5-[2-(5-methyl-pyrazin-2-yl)-ethyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.09 g, 54% yield | ClC1=CC=2C3=C(N(C2C=C1)CCC1=NC=C(N=C1)C)CCN(C3)C | C19H21ClN4
